US06759554B2
Copper (I) iodide (10 mg, 0.05 mmol, 5 mol %), anhydrous fine powder potassium phosphate (425 mg, 2.0 mmol) and 2,6-dimethylphenol (24 mg, 0.2 mmol, 20 mol %) were put into a screw-capped test tube with a Teflon septum. The tube was evacuated and back-filled with argon (3 cycles). 2-Iodoanisole (130 μL, 1.0 mmol) and n-hexylamine (158 μL, 1.0 mmol) were added by micro-syringe at room temperature. The reaction mixture was heated at 80° C. for 18 hours. The reaction mixture was then allowed to reach room temperature. Diethyl ether (2 mL), water (2 mL) and dodecane (internal standard, 227 μL) were added. The organic layer was analyzed by GC to give 41% GC yield of N-(2-methoxyphenyl)hexylamine.

reactant | potassium phosphate | 2.0 mmol, 425 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 2,6-dimethylphenol | 0.2 mmol, 24 mg | CC1=C(C(=CC=C1)C)O | C8H10O
reactant | 2-Iodoanisole | 1.0 mmol, 130 μL | IC1=C(C=CC=C1)OC | C7H7IO
reactant | n-hexylamine | 1.0 mmol, 158 μL | C(CCCCC)N | C6H15N
reactant | dodecane | 227 μL | CCCCCCCCCCCC | C12H26
catalyst | Copper (I) iodide | 0.05 mmol, 10 mg | [Cu]I
solvent | water | 2 mL | O | H2O
solvent | Diethyl ether | 2 mL | C(C)OCC | C4H10O
product | N-(2-methoxyphenyl)hexylamine | COC1=C(C=CC=C1)CCCCCCN | C13H21NO
